Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Erythromycin Base / Phenothiazines / codeine / Benadryl
 
Attending: ___.
 
Chief Complaint:
"I was re-diagnosed with MS and I'm
incapacitated."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: This is a ___ year old woman, 
reported
history of depression, anxiety, s/p two prior psychiatric
hospitalizations, s/p one prior suicide attempts, recurrent
neurologic events of unknown etiology, HTN, L SN hearing loss,
GERD, recently evaluated by C/L service in ___ for 
evaluation
of depression after medical admission for neurologic symptoms,
who presents to ED as a referral from her outpatient 
psychiatrist
with worsening depression and SI. 
 
Upon interview with Ms. ___, who was able to provide a coherent
history, she had been feeling depressed since ___,
stating, "I just wanted to fall asleep and not wake up" in the
setting of gait instability and weakness. She notes that after
her discharge from ___ in ___, she initially felt
"emotionally better" until recently, stating her mood has been
worsening and describing anhedonia. Reported sleep has been
"erratic" with difficulties initiating and maintaining sleep.
Reported poor energy, fatigue, and difficulty concentrating,
although admits she has been performing well at ___ where she is studying ___ and has maintained a
3.6 GPA. Reported loss of appetite with possible weight loss.
Reports SI, stating, "I'm at the end of my rope" with thoughts 
of
"jumping off a cliff" and urges to drive her car off a bridge. 

In this setting and in the setting of worsening weakness, 
patient
states she discovered yesterday that she was denied for 
emergency
disability services; "I needed assistance for cash, food, what
are they going to do, starve me?" States she cannot see how she
would be able to pay her bills and became overwhelmed and more
despondent. Reports she saw her therapist today at ___, and her therapist advised her to come to the 
ER
for an evaluation. 

On psychiatric review of systems, Ms. ___ reported feeling
anxious about "everything." No clear panic attacks. patient
denied history of AVH, paranoia, history of manic symptoms
including decreased need for sleep, increased energy, activity.
Denied current alcohol use; states she uses medicinal MJ up to
three times weekly, but has not used in 10 days. Denies other
illicit drug use. Denies history of cutting/burning. 

With the patient's permission, I attempted to call her 
therapist,
___ at ___. Left voicemail asking her to
return my call. 
 

 
Past Medical History:
- HTN
- Unclear neurologic diagnosis, as above
- Migraine w/aura
- L SN hearing loss
- GERD
- depression, with 2 psychiatric hospitalizations, 1 after a
suicide attempt with pills after miscarriage and in the middle 
of a divorce
- anxiety
No PSH
She is G4P1 (1 miscarriage, 2 abortions)

 
Social History:
___
Family History:
Children: son healthy
___: sister died of complications of lupus
Parents: mom with migraines (and several of her relatives with
the same); father ___ (and several of his relatives
with the same)
Grandparents: MGM w/migraines; PGF w/RA
Also positive for heart disease, diabetes, depression

 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T: 97.9, BP: 110/80, HR: 63, R: not taken, O2 sat: 99% on RA

General: Middle-aged female in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI, no nystagmus.
Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nondistended. Mild tenderness to palpation 
of
LLQ. No palpable masses or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Patient points out healed abscess on back which she 
reports
was from an LP ___ yrs ago, became abscess in ___. Noted small
raised area in mid-low back, nonerythematous, nontender to
palpation. No other rashes, abrasions, scars, or lesions noted. 
 
Neurological:
Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light bilaterally.
Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength symmetric, decreased sensation on R side
of face.
VIII: Hearing intact to finger rub on R, decreased on L.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.
Motor- Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength 4+/5 on RUE, otherwise ___ throughout.
Coordination: Normal on finger to nose test. Deep tendon
reflexes: Trace throughout. Sensation: Decreased to light touch
on R face, arm and leg. Gait: Steady, but walks with cane. 
Normal
stance and posture.

NEUROPSYCHIATRIC EXAMINATION:
Mental Status:
Appearance: Middle-aged female, fairly well groomed, wearing
hospital gown with multiple blankets and cane.
Behavior: Cooperative, forthcoming, overinclusive of details.
Frequently tearful. Often looking off to side (but does not
appear internally preoccupied). At end of interview became 
angry,
more distressed/tearful when found out would not be discharged
before ___. 
Mood and Affect: "I'm really depressed and angry" / mood
congruent, dysphoric and frequently tearful, labile, becoming
angrier at end of interview. 
Thought Process: Mostly linear and goal-oriented, overinclusive
of details, hyperbolic. No loose associations, though at end of
interview when more emotionally dysregulated was more 
tangential,
mentioning irrelevant details ("I'm a survivor," "I don't do 
well
with men")
Thought Content: Focused on reporting trauma history,
emotionality, difficulty of recent psychosocial stressors. 
Active
SI as above. +Some paranoia accusing us of "psychological
warfare" and saying she doesn't trust the treatment team. No
HI/AH/VH.
Judgment and Insight: poor/poor

 
Pertinent Results:
___ 07:46PM URINE  HOURS-RANDOM
___ 07:46PM URINE  HOURS-RANDOM
___ 07:46PM URINE  UCG-NEGATIVE
___ 07:46PM URINE  GR HOLD-HOLD
___ 07:46PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:46PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 07:46PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 07:46PM URINE  RBC-4* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-6
___ 07:46PM URINE  MUCOUS-MOD
___ 05:00PM   GLUCOSE-78 UREA N-12 CREAT-0.6 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-25 ANION GAP-16
___ 05:00PM   estGFR-Using this
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00PM   WBC-7.7# RBC-4.77 HGB-14.2 HCT-43.4 MCV-91 
MCH-29.7 MCHC-32.7 RDW-13.5
___ 05:00PM   NEUTS-68.3 ___ MONOS-5.4 EOS-1.2 
BASOS-0.3
___ 05:00PM   PLT COUNT-274
 
Brief Hospital Course:
Global Assessment:
___ years old female with self reported depression, anxiety, 
multiple prior psychiatric hospitalizations and 1 prior SA, also 
with PMH of multiple sclerosis, L sensorineural hearing loss, 
migraine headaches, and HTN presenting with several 
neurovegetative sx of depression and SI in the setting of 
financial and psychosocial stressors. Etiology of presenting sx 
was unclear as clinical picture was complicated by patient's 
affective lability, hypervigilence, and preoccupation with 
injustice/persecution. Ddx was initially broad, but the pt did 
very well during her stay and appeared to suffer from complex 
PTSD w/ co-morbid depression and personality d/o traits.

#. Complex PTSD / Depression / Personality d/o traits: 
On admission, she reported sx of depression and anxiety, was 
passively suicidal and very irritable, with affective lability 
and demonstrated pervasive distrust and preoccupation with 
injustice and feelings of persecution. This persistent during 
first couple of days of hospitalization, but seemed to improve 
some after team started antidepressant medication and helped to 
address some psychosocial stressors. Patient was medication 
compliant, though complained Celexa caused sedation and this 
medication was subsequently administered at night. Patient began 
attending groups and found them helpful, but on multiple 
occasions felt violated or provoked by staff and become very 
upset, perseverative and difficult to console. 

Overwhelmingly, her initial sx of irritability/lability subsided 
and so did her paranoia.  She was able to make good 
relationships on the unit w/ others and was very positive w/ 
staff and primary team.

Safety: Patient remained in good behavioral control  throughout 
this hospitalization, except for outbursts in response to 
feeling persecuted or violated by staff, but she did not require 
physical or chemical restraint. The patient remained on 15 
minute checks, which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
# Multiple sclerosis: Reports neurologic sx including imbalance 
and ___ numbness/tingling. Symptoms were monitored and no new or 
acute exacerbation of symptoms occurred on the unit. Patient has 
f/u appointment with Dr. ___ neurology on ___. 

# HTN: BP remained wnl. We continued pt's home Amlodipine.

# Back spasm/pain: pt reported using Baclofen in the past but 
prefer nonpharmacologic measures this hospitalization. She was 
given pen Ibuprofen for pain.

PSYCHOSOCIAL
#) MILIEU/GROUPS
Ms. ___ was initially reluctant to participate in groups.  As 
time went on, however, she attended many social groups and was 
quite visible in the dayroom. She especially liked the music and 
meditation groups.  
She never engaged in any unsafe behaviors. The pt ate all meals  
in the milieu, had some trouble sleeping though this improved 
with celexa at night. She had occasional angry outbursts when 
felt provoked, but was largely cooperative with unit rules.

#) FAMILY CONTACTS
None - pt refused despite our repeated recommendations to 
involve someone from the outside in her hospital course

#) COLLATERAL
Spoke with patient's therapist at ___ - she viewed the 
pt as having depression and PTSD.  Had been recommending psych 
f/u and mood stabilizer for some time.  We discussed this w/ the 
pt who was adamantly opposed to any medication other than an 
SSRI and also refused f/u with psychiatry; preferring to keep 
her care w/ her PCP and therapist.

LEGAL STATUS
The pt signed in on CV

RISK ASSESSMENT:
Pt has a low risk for imminent self-harm.

Static risk factors include:
-chronic mental illness
-reported h/o trauma
-___ medical illness (Multiple Sclerosis)

Modifiable risk factors include:
-Mental illness (we modified this by treating with an 
antidepressant which the patient responded to well and 
tolerated).
-Financial hardship (we modified this by connecting with housing 
authority and confirming patient had not been evicted and was 
issued a voucher for subsidized housing). We also filed a ___ 
application on the patient's behalf.
-Social isolation 
-Family discord

Protective factors include:
- Female gender
- Offspring
- Current sobriety. 
- Current treatment with outpatient therapist

INFORMED CONSENT
Ms. ___ was started on Celexa during this admission. We 
discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS: 
Fair
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
Take 40 mg at bedtime. 
RX *citalopram 40 mg 1 tablet(s) by mouth daily at bedtime Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PTSD, depression
 
Discharge Condition:
mse
a/b- Appropriately dressed and groomed. No PMR/PMA
mood- 'okay'
affect- normal range, reactive
speech- no dysarthria; nl rate, vol
tp- linear/goal directed
tc- no delusions or bizarre content
avh- none
si/hi- denies si today; no hi
cog- a+ox3
i/j- improved
gait - ambulatory

 
Discharge Instructions:
You were hospitalized at ___ for depression, anxiety and 
suicidal thoughts.  We adjusted your medications, and you are 
now ready for discharge and continued treatment in outpatient 
therapy. We also recommended establishing care with a 
psychiatrist on an outpatient basis, but you declined.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please practice safe sex.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___